US06008243
According to the procedure described in Example 7(a), N-methyl-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester was hydrogenolyzed in acetic acid to yield in 90% yield N-methyl-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid as a yellow amorphous solid. 1HNMR (DMSO-d6): δ 8.58 (d, 2H, J=5.9 Hz), 7.75 (d, 2H, J=8.1 Hz), 7.71 (d, 2H, J=6.2 Hz), 7.61 (d, 2H, J=8.4 Hz), 7.29 (s, 1H), 6.77 (t, 1H, J=2.2 Hz), 6.42 (t, 1H, J=2.2 Hz), 4.80 (d, 1H, J=10.7 Hz), 3.16 (dd, 1H, J=15.8, 11.0 Hz), 2.36 (s, 3H). Anal. Calculated for C20H19N3O3.1.0 H2O.0.33 AcOH: C, 64.08; H, 5.81; N, 10.85. Found: C, 64.23, 64.16; H, 5.66, 5.67; N, 10.83, 10.78.

reactant | N-methyl-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)NC)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C27H25N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-methyl-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid | 90% yield | CNC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C20H19N3O3
